* Z:\mnt\design.r\spice\examples\3589.asc
XU1 IN LDO2 LDO3 LDO4 IN IN N004 NC_01 NC_02 NC_03 NC_04 N003 NC_05 NC_06 IN OUT4 MP_07 NC_08 N002 MP_09 MP_10 MP_11 N001 IN N007 N010 IN MP_12 NC_13 MP_14 MP_15 MP_16 N008 N011 N012 LDO1 IN N009 N005 N006 0 LTC3589 LTC3589 Vref1=.5 Freq1=0 Mode1=0 Vref1_slew=0 DVDT1=0 Phase1=0 OVEN1=1 Vref2=.5 Freq2=0 Mode2=0 Vref2_slew=0 DVDT2=0 Phase2=0 OVEN2=1 Vref3=.5 Freq3=0 Mode3=0 Vref3_slew=0 DVDT3=0 Phase3=0 OVEN3=1 Vref_LDO2=.6 LDO2_slew=3 OVEN_LDO2=1 OVEN_LDO3=1 LDO4_ref=0 OVEN_LDO4=1 Mode_BB=0 OVEN_BB=1
V1 IN 0 3.3
R1 IN N001 10K
L1 N004 OUT1 1µ
C1 OUT1 0 22µ
R2 OUT1 0 1
R4 N005 0 100K
L2 N007 OUT2 1.5µ
C2 OUT2 0 22µ
R5 OUT2 0 1
R7 N008 0 100K
L3 N010 OUT3 1.5µ
C3 OUT3 0 22µ
R8 OUT3 0 1
R10 N011 0 100K
L4 N003 N002 2.7µ
C4 OUT4 0 22µ
R11 OUT4 0 5
R12 OUT4 N006 3Meg
R13 N006 0 1Meg
C5 0 LDO2 1µ
R14 LDO2 N009 1Meg
R15 N009 0 1Meg
C6 LDO3 0 1µ
C7 LDO4 0 1µ
C8 LDO1 0 1µ
R16 N012 LDO1 1Meg
R17 0 N012 1Meg
C9 OUT1 N005 10p
C10 OUT2 N008 10p
C11 OUT3 N011 10p
.tran .7m startup
* The following I2C functions have been modeled:\n \n\nVrefx    :     Sets the reference voltage for the regulator\nFreqx    :     Sets the switching frequency ( 0 => 2.25MHz, 1 => 1.225MHz)\nModex  :     Sets the operation mode of buck regulators\n                   0 - Pulse Skip Mode, 1 - Burst Mode, 2 - Forced Continuous Mode\nVrefx_slew: Sets the slew rate of reference votlage\n                   0 - 0.88mV/us, 1 - 1.75mV/us, 2 - 3.5mV/us, 3 - 7mV/us\nDVDTx :     Sets the slew of switching edge\n                   0 - 1ns, 1 - 2ns, 2 - 4ns, 3 - 8ns\nPhasex :     Sets the phase of switching\n                   0 - switch on Clock Phase 1, 1 - switch on Clock Phase 2\nOVENx :     Output Voltage Enable\n \nLDO2_slew: Sets the slew rate of LDO2\n                     0 - 0.88mV/us, 1 - 1.75mV/us, 2 - 3.5mV/us, 3 - 7mV/us\nLDO4_ref   : Sets output voltage of LDO4\n                     0 - 2.8V, 1 - 2.5V, 2 - 1.8V, 3 - 3.3V
.lib LTC3589.sub
.backanno
.end
